US07951815B2
1,3-(S)-dibenzyl-8-(naphthalin-2-carbonyl)-1,4,8-triazaspiro[4,5]decan-2-one (400 mg, 0.8 mmol) was dissolved in ethyl methyl ketone (3.2 mL), water (8 μL), TMSCl (114 μL), and ether (20 mL) were added and the mixture was stirred overnight. The solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(naphthalin-2-carbonyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 407 mg (95%).

reactant | 1,3-(S)-dibenzyl-8-(naphthalin-2-carbonyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.8 mmol, 400 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(=O)C2=CC1=CC=CC=C1C=C2)CC2=CC=CC=C2)=O | C32H31N3O2
reactant | water | 8 μL | O | H2O
reactant | TMSCl | 114 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | ether | 20 mL | CCOCC | C4H10O
solvent | ethyl methyl ketone | 3.2 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(naphthalin-2-carbonyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(=O)C2=CC1=CC=CC=C1C=C2)CC2=CC=CC=C2)=O | InChI=1S/C32H31N3O2.ClH/c36-30(28-16-15-26-13-7-8-14-27(26)22-28)34-19-17-32(18-20-34)33-29(21-24-9-3-1-4-10-24)31(37)35(32)23-25-11-5-2-6-12-25;/h1-16,22,29,33H,17-21,23H2;1H/t29-;/m0./s1
